US07612114B2
To a solution of 5-methoxy-2-(6-methoxy-3,4-dihydronaphthalen-2-yl)phenylamine (400 mg) in tetrahydrofuran (10 ml) and N,N-diisopropylethylamine (0.5 ml) was added ethyl chlorocarbonate (0.2 ml) on an ice bath, and the solution was stirred overnight at room temperature. A saturated aqueous solution of ammonium chloride was added thereto, the solution was extracted with ethyl acetate, then sequentially washed with water and brine, and the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane-ethyl acetate system) to provide ethyl [5-methoxy-2-(6-methoxy-3,4-dihydronaphthalen-2-yl)phenyl]carbamate (445 mg). This compound (438 mg) was used according to an analogous synthetic method to Example 337 described below to provide the title compound (286 mg).

reactant | 5-methoxy-2-(6-methoxy-3,4-dihydronaphthalen-2-yl)phenylamine | 400 mg | COC=1C=CC(=C(C1)N)C1=CC2=CC=C(C=C2CC1)OC | C18H19NO2
reactant | ethyl chlorocarbonate | 0.2 ml | C(OCC)(=O)Cl | C3H5ClO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | N,N-diisopropylethylamine | 0.5 ml | C(C)(C)N(C(C)C)CC | C8H19N
product | ethyl [5-methoxy-2-(6-methoxy-3,4-dihydronaphthalen-2-yl)phenyl]carbamate | 445 mg | COC=1C=CC(=C(C1)NC(OCC)=O)C1=CC2=CC=C(C=C2CC1)OC | C21H23NO4
